datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[C:38]([H:39])([H:40])[H:41]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([C:11]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])[H:20])([H:17])[H:18])([H:15])[H:16])([H:12])([H:13])[H:14].[H:19][C:38]([H:39])([H:40])[H:41],22.92832
[C:0](=[C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])[H:10].[H:17]>>[C:0]([C:1]=[C:2]([c:3]1[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]1[H:16])[H:11])([H:9])([H:10])[H:17],10.301008
[C:0](=[C:1][C:2](=[S:3])[H:6])([H:4])[H:5].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])([C:10](=[S:11])[H:19])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[S:3])[H:6])[H:15])([H:4])[H:5].[C:7]([C:8]([C:9]([H:16])([H:17])[H:18])[C:10](=[S:11])[H:19])([H:12])([H:13])[H:14],47.2792
[C:0](=[C:1]=[O:2])([H:3])[H:4].[H:5]>>[C:0](=[C:1]=[O:2])[H:4].[H:3][H:5],36.7489088
[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:6]([H:16])[C:7]([H:17])=[C:8]([H:18])[C:9]1([H:19])[H:20])[H:15]>>[C:0]1([H:10])[C:1]([H:11])=[C:2]([H:12])[C:3]([H:13])([H:14])[C:4]1([C:5]1=[C:9]([H:20])[C:8]([H:18])([H:19])[C:7]([H:17])=[C:6]1[H:16])[H:15],91.2112
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16]([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:16]([H:17])([H:18])[H:19])[H:9])[H:8],20.5853
[C:0](=[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])([H:4])[H:5].[C:9]([C:10](=[S:11])[H:15])([H:12])([H:13])[H:14]>>[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:15])([H:4])[H:5].[C:9]([C:10]=[S:11])([H:12])([H:13])[H:14],53.0531
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1][S:2][H:6])([H:3])[H:4].[H:5][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],95.8973
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7],486.900448
[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[C:6]([H:7])([H:8])[H:9]>>[C:0]([C:1]([O:2])([H:5])[C:6]([H:7])([H:8])[H:9])([H:3])[H:4],40.1664
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15]([C:16]([S:17][H:27])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:16]([C:15]([H:24])([H:25])[H:26])([S:17][H:27])[c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32],15.4808
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12](=[C:13]([H:15])[H:16])[H:14]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:12](=[C:13]([H:15])[H:16])[H:14],-15.8992
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[C:7]([C:8]([C:9]([C:10]([C:11]([C:12]([C:13]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15],0.0
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6](=[C:7]([C:8]([C:9]([H:18])([H:19])[H:20])=[C:10]([C:11](=[C:12]([H:22])[H:23])[H:21])[C:13](=[C:14]([H:25])[H:26])[H:24])[H:17])([H:15])[H:16]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:8]([C:7](=[C:6]([H:15])[H:16])[H:17])([C:9]([H:18])([H:19])[H:20])[C:10]([C:11](=[C:12]([H:22])[H:23])[H:21])[C:13](=[C:14]([H:25])[H:26])[H:24])[H:3],31.0453
[S:0]([H:1])[H:2].[S:3]>>[H:1][S:3].[S:0][H:2],37.69784
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32],18.828
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([S:16][H:22])([H:20])[H:21])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:20])[H:7])([H:5])[H:6].[C:14]([C:15]([S:16][H:22])[H:21])([H:17])([H:18])[H:19],56.9024
